US05273975
A solution of N-(2,3,6,7-tetrahydro-3-oxo-1H,5H-benzo(ij)quinolizin-2-yl)-formamide (0.8 g, 3.4 mmol) in ethanolic hydrogen chloride (10 mL of 4.2 M) was heated at 50° C. for 2 hours. The ethanol was cooled, an equal volume of ether was added, and the precipitate was filtered off and washed with ether to give 0.78 g of 2,3,6,7-tetrahydro-3-oxo-1H,5H-benzo(ij)quinolizin-2-amine hydrochloride, mp 216°-221° C. The product was recrystallized for analysis; mp 219°-222° C. Anal. Calcd. for C12H14N2O.HCl: C, 60.37; H, 6.33; Cl, 14.85; N, 11.74. Found: C, 59.89; H, 6.42; Cl, 15.41; N, 11.68.

reactant | N-(2,3,6,7-tetrahydro-3-oxo-1H,5H-benzo(ij)quinolizin-2-yl)-formamide | 3.4 mmol, 0.8 g | O=C1N2CCCC3=C2C(CC1NC=O)=CC=C3 | C13H14N2O2
reactant | ethanol | C(C)O | C2H6O
reactant | ether | CCOCC | C4H10O
reactant | hydrogen chloride | 4.2 M, 10 mL | Cl | ClH
product | 2,3,6,7-tetrahydro-3-oxo-1H,5H-benzo(ij)quinolizin-2-amine hydrochloride | 0.78 g | Cl.O=C1N2CCCC3=C2C(CC1N)=CC=C3 | InChI=1S/C12H14N2O.ClH/c13-10-7-9-4-1-3-8-5-2-6-14(11(8)9)12(10)15;/h1,3-4,10H,2,5-7,13H2;1H
